plaintext
* SPICE netlist for the given schematic

Qref 2 2 0 QNPN  ; Q_REF: Collector at 2, Base at 2, Emitter at 0
Q1 4 3 0 QNPN    ; Q_1: Collector at 4, Base at 3, Emitter at 0

Iref 5 2 DC ???  ; I_REF: Positive terminal at 5, Negative terminal at 2

Vcc 5 0 DC ???   ; V_CC: Positive terminal at 5, Negative terminal at 0

.model QNPN NPN

.end